US07109354B2
b) 4-[3-(4-Methyl-pyrimidin-5-yl)-benzenesulfonyl]-5-methylsulfanyl-thiophene-2-carboxamidine
The (imino-{4-[3-(4-methyl-pyrimidin-5-yl)-benzenesulfonyl]-5-methylsulfanyl-thiophen-2-yl}-methyl)-carbamic acid tert-butyl ester ((Example 293: step a) 15 mg, 0.03 mmol) was dissolved in dichloromethane (1 mL), water (1 drop) was added, followed by trifluoroacetic acid (1 mL). The solution was stirred for 1 h 40 min at rt. The solvents were removed in vacuo, the residue was co-evaporated with dichloromethane and methanol, then purified by preparative TLC (10% methanol in dichloromethane) which yielded the title compound as a pale yellow glass (4 mg, 32%). 1H-NMR (CD3OD): δ 9.05 (s, 1H), 8.61 (s, 1H), 8.13–8.08 (m, 2H), 8.04 (s, 1H), 7.78–7.76 (m, 2H), 2.66 (s, 3H), 2.49 (s, 3H). ESI-MS (m/z): Calcd. for C17H16N4O2S3: 404.5 (M+H); found: 405.1.

reactant | (imino-{4-[3-(4-methyl-pyrimidin-5-yl)-benzenesulfonyl]-5-methylsulfanyl-thiophen-2-yl}-methyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C=1SC(=C(C1)S(=O)(=O)C1=CC(=CC=C1)C=1C(=NC=NC1)C)SC)=N)=O | C22H24N4O4S3
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
catalyst | water | 1 drop | O | H2O
product | 4-[3-(4-Methyl-pyrimidin-5-yl)-benzenesulfonyl]-5-methylsulfanyl-thiophene-2-carboxamidine | 4 mg, 32% | CC1=NC=NC=C1C=1C=C(C=CC1)S(=O)(=O)C=1C=C(SC1SC)C(=N)N | C17H16N4O2S3
